### PR TITLE
Implemented computable finSuccEquivNth

### PR DESCRIPTION
**Pull request by Julek**
As title says. Needed for computable sumcheck in ArkLib. Also ported a bunch of the features from `ArkLib/toCompPoly`.

### CODE REVIEW

File: CompPoly/Multivariate/Eval.lean [hunk 1]
```diff
@@ -0,0 +1,104 @@
...
+Authors: Pablo Martín Vinuelas
+-/
+module
+
+public import CompPoly.Multivariate.Operations
+
+/-!
+  # Evaluation of computable multivariate polynomials, bundled and over `Finset`s
+
+  Additions to `CompPoly.Multivariate.CMvPolynomialEvalLemmas`, not yet upstreamed to CompPoly.
```
Comment (dhsorens) [inline CompPoly/Multivariate/Eval.lean:13]: this comment will go out of date when we merge :)

File: CompPoly/Multivariate/Eval.lean [hunk 2]
```diff
@@ -0,0 +1,104 @@
+/-
+Copyright (c) 2024-2026 ArkLib Contributors. All rights reserved.
```
Comment (dhsorens) [inline CompPoly/Multivariate/Eval.lean:2]: Arklib => CompPoly

File: CompPoly/Multivariate/Eval.lean [hunk 3]
```diff
@@ -0,0 +1,104 @@
...
+  need to normalize a *fixed* expression. Two things are missing for reasoning about a **family**
+  of polynomials: the value of a bare variable, and commutation with `Finset.sum` / `Finset.prod`.
+
+  Both follow at once from bundling: `CMvPolynomial.eval vals` is `eval₂Hom (RingHom.id R) vals`,
+  so `map_sum` and `map_prod` apply verbatim. `evalHom` records that bundling; the two `Finset`
+  lemmas are its immediate corollaries, stated in unbundled form so that call sites can rewrite
+  without unfolding.
+
+  These are the lemmas the Hachi sumcheck summands need
+  (`Commitments/Functional/Hachi/ZeroCheck/Constraints.lean`): its constraint polynomials are
```
Comment (dhsorens) [inline CompPoly/Multivariate/Eval.lean:26]: this is an Arklib link - maybe indicate this?

File: CompPoly/Multivariate/Eval.lean [hunk 4]
```diff
@@ -0,0 +1,104 @@
...
+
+variable {n : ℕ} {R : Type*} [CommSemiring R] [BEq R] [LawfulBEq R] (vals : Fin n → R)
+
+/-- Evaluation at a fixed point, bundled as a ring homomorphism — the identity-coefficient case
+of `eval₂Hom`. This is what gives evaluation the `map_*` API of a `RingHom`. -/
+def evalHom : CMvPolynomial n R →+* R := eval₂Hom (RingHom.id R) vals
+
+@[simp]
+theorem evalHom_apply (p : CMvPolynomial n R) : evalHom vals p = p.eval vals := rfl
+
```
Comment (dhsorens) [inline CompPoly/Multivariate/Eval.lean:43]: would it make sense to put this in with the other eval lemmas in CMvPolynomialEvalLemmas?

File: CompPoly/Multivariate/Eval.lean [hunk 5]
```diff
@@ -0,0 +1,104 @@
...
+/-- Evaluating a bare variable returns the corresponding coordinate. -/
+@[simp]
+theorem eval_X (i : Fin n) : (X (R := R) i).eval vals = vals i := by
+  rw [eval_equiv, fromCMvPolynomial_X, MvPolynomial.eval_X]
```
Comment (dhsorens) [inline CompPoly/Multivariate/Eval.lean:47]: same here - it has a sister lemma in `eval_C` in CMvPolynomialEvalLemmas

File: CompPoly/Multivariate/Eval.lean (hunk 4 above)
Comment (dhsorens) [reply CompPoly/Multivariate/Eval.lean:43]: a lot of the lemmas in this file might live better lives in CMvPolynomialEvalLemmas

File: CompPoly/Multivariate/Eval.lean [hunk 6]
```diff
@@ -0,0 +1,104 @@
...
+    fromCMvPolynomial (∑ i ∈ s, f i) = ∑ i ∈ s, fromCMvPolynomial (f i) :=
+  map_sum (polyRingEquiv (n := n) (R := R)) f s
+
+/-- `fromCMvPolynomial` commutes with a finite product. -/
+theorem fromCMvPolynomial_prod {ι : Type*} (s : Finset ι) (f : ι → CMvPolynomial n R) :
+    fromCMvPolynomial (∏ i ∈ s, f i) = ∏ i ∈ s, fromCMvPolynomial (f i) :=
+  map_prod (polyRingEquiv (n := n) (R := R)) f s
+
+/-- `fromCMvPolynomial` commutes with addition, in `HAdd` notation. CompPoly's own `CPoly.map_add`
+is stated at `Add.add`, which `rw` will not match against a `+` written by the elaborator. -/
```
Comment (dhsorens) [inline CompPoly/Multivariate/Eval.lean:78]: this comment is actually wrong - map_add is written with + [here](https://github.com/Verified-zkEVM/CompPoly/blob/aa2b4a74db351f0262d7664205baea65098af674/CompPoly/Multivariate/MvPolyEquiv/Instances.lean#L29)

File: CompPoly/Multivariate/CMvPolynomial.lean [hunk 7]
```diff
@@ -80,6 +80,25 @@ theorem ext {n : ℕ} [Zero R] (p q : CMvPolynomial n R)
 
 attribute [local grind =] Option.some_inj
 
+section DecidableEq
+
+variable {n : ℕ} [Zero R] [BEq R] [LawfulBEq R]
+
+/-- Decidable equality on `CMvPolynomial n R`, bootstrapped from `LawfulBEq R` so that it is
+available without a separate `[DecidableEq R]` assumption. -/
+instance instDecidableEq : DecidableEq (CMvPolynomial n R) :=
```
Comment (dhsorens) [inline CompPoly/Multivariate/CMvPolynomial.lean:89]: just making a note that this could diamond with the existing `Lawful.instDecidableEq`. not an issue now, but could show up later on (easy fix at that point)

File: CompPoly/Univariate/Basic.lean [hunk 8]
```diff
@@ -199,6 +200,20 @@ theorem coeff_ofArray [Zero R] [BEq R] [LawfulBEq R]
   unfold CPolynomial.coeff CPolynomial.ofArray
   rw [CPolynomial.Raw.Trim.coeff_eq_coeff]
 
+/-- Construct a canonical polynomial from a coefficient function `Fin n → R`.
+
+  Index `i` gives the coefficient of `X^i`; the resulting array is trimmed to remove
+  trailing zeros. -/
+def ofFn [Zero R] [BEq R] [LawfulBEq R] {n : ℕ} (f : Fin n → R) : CPolynomial R :=
```
Comment (dhsorens) [inline CompPoly/Univariate/Basic.lean:207]: same here - no consumers I can see but happy to include if useful downstream

File: CompPoly/Univariate/Basic.lean [hunk 9]
```diff
@@ -1085,6 +1100,36 @@ lemma coeff_finset_sum [Semiring R] [BEq R] [LawfulBEq R]
   | empty => simp only [Finset.sum_empty, coeff_zero]
   | insert _ _ hna ih => rw [Finset.sum_insert hna, coeff_add, ih, Finset.sum_insert hna]
 
+/-! ### Polynomials from a finite coefficient function -/
+
+/-- Extracting the `k`-th coefficient as an additive homomorphism. -/
+@[expose]
+def coeffHom [Semiring R] [BEq R] [LawfulBEq R] (k : ℕ) : CPolynomial R →+ R where
```
Comment (dhsorens) [inline CompPoly/Univariate/Basic.lean:1107]: same — no consumers that I can see but happy to include if useful

File: CompPoly/Multivariate/FinSuccEquiv.lean [hunk 10]
```diff
@@ -108,3 +120,176 @@ theorem finSuccEquiv_one :
...
+/-! ### The computable `finSuccEquivNth` (arbitrary pivot)
+
+Unlike `finSuccEquiv` above, this stays inside the computable `CMvPolynomial` / `CPolynomial`
+world and works for an arbitrary pivot `p`. -/
+
+namespace CPoly.CMvPolynomial
+
+open CompPoly CompPoly.CPolynomial
+
+variable [Nontrivial R]
```
Comment (dhsorens) [inline CompPoly/Multivariate/FinSuccEquiv.lean]: `insertVarHom` doesn't need `Nontrivial` (see the `omit`s below) — can this be per-decl?

File: CompPoly/Multivariate/FinSuccEquiv.lean [hunk 11]
```diff
@@ -108,3 +120,176 @@ theorem finSuccEquiv_one :
...
+
+/-- Assignment used by the forward direction: variable `p` goes to the univariate `X`, every
+other variable `p.succAbove j` goes to the constant `C (X j)`. -/
+def fseVars (p : Fin (n + 1)) : Fin (n + 1) → CPolynomial (CMvPolynomial n R) :=
```
Comment (dhsorens) [inline CompPoly/Multivariate/FinSuccEquiv.lean]: `fseVars` is a bit cryptic next to `finSuccEquivNthHom`

File: docs/wiki/representations-and-bridges.md [hunk 12]
```diff
@@ -34,6 +34,9 @@ The main bridge to Mathlib lives in:
 - [`../../CompPoly/Univariate/ToPoly/Core.lean`](../../CompPoly/Univariate/ToPoly/Core.lean)
 - [`../../CompPoly/Univariate/ToPoly/Equiv.lean`](../../CompPoly/Univariate/ToPoly/Equiv.lean)
 - [`../../CompPoly/Univariate/ToPoly/Degree.lean`](../../CompPoly/Univariate/ToPoly/Degree.lean)
+- [`../../CompPoly/Univariate/ToPoly/RingHom.lean`](../../CompPoly/Univariate/ToPoly/RingHom.lean)
```
Comment (dhsorens) [inline docs/wiki/representations-and-bridges.md]: we added `ToPoly/RingHom` but not the computable `finSuccEquivNth` (or `Eval.lean`) on the multivariate side

File: CompPoly/Multivariate/Eval.lean [hunk 13]
```diff
@@ -0,0 +1,104 @@
...
+  _root_.map_one (polyRingEquiv (n := n) (R := R))
+
+end CPoly.CMvPolynomial
+
+namespace CPoly.CMvPolynomial
+
+variable {n : ℕ} {R : Type*} [CommRing R] [BEq R] [LawfulBEq R]
+
+/-- `fromCMvPolynomial` commutes with subtraction, in `HSub` notation. -/
+theorem fromCMvPolynomial_sub' (p q : CMvPolynomial n R) :
```
Comment (dhsorens) [inline CompPoly/Multivariate/Eval.lean:100]: same as `add'` — or we could just restate `map_sub` with `-`

File: CompPoly/Univariate/ToPoly/Degree.lean [hunk 14]
```diff
@@ -188,6 +188,20 @@ end degreeLTEquiv
...
+
+variable [LawfulBEq R] [DecidableEq R]
+
+/-- The polynomial built from `N` coefficients has `toPoly` of degree below `N`. -/
+theorem degree_toPoly_ofFinCoeff_lt (N : ℕ) (c : ℕ → R) :
+    (ofFinCoeff N c).toPoly.degree < (N : WithBot ℕ) := by
+  rw [← degree_toPoly, degree_lt_iff_coeff_zero]
+  intro k hk
+  rw [coeff_ofFinCoeff]
+  exact if_neg (by omega)
```
Comment (dhsorens) [inline CompPoly/Univariate/ToPoly/Degree.lean:201]: making a note that there are no consumers of this - happy to include it if useful but flagging just in case it's left over

**Review by dhsorens — COMMENTED** [review]
hey @Julek - thanks for the contribution! a few comments here, mostly comments/idiomatic things (some of them are just informational). happy to merge when those are resolved

File: CompPoly/Multivariate/Eval.lean (hunk 1 above)
Comment (Julek) [reply CompPoly/Multivariate/Eval.lean:13]: Yup apologies, this file was copy and pasted from ArkLib :slightly_smiling_face:

File: CompPoly/Multivariate/Eval.lean (hunk 3 above)
Comment (Julek) [reply CompPoly/Multivariate/Eval.lean:26]: Will just remove the comment.

File: CompPoly/Univariate/Basic.lean (hunk 9 above)
Comment (Julek) [reply CompPoly/Univariate/Basic.lean]: I need this and the other lemmas you flagged above in the new computable sumcheck implementation.

File: CompPoly/Multivariate/CMvPolynomial.lean (hunk 7 above)
Comment (Julek) [reply CompPoly/Multivariate/CMvPolynomial.lean]: `Lawful.instDecidableEq` in fact had unused typeclass constraints which I've now removed as well as this.

File: CompPoly/Multivariate/Eval.lean (hunk 4 above)
Comment (Julek) [reply CompPoly/Multivariate/Eval.lean]: I'm just shifting everything into this file, `CMvPolynomialEvalLemmas` is an unnecessarily verbose name, and the file is quite disorganised anyways.

File: CompPoly/Multivariate/Eval.lean (hunk 5 above)
Comment (Julek) [reply CompPoly/Multivariate/Eval.lean]: As above, merging the files.

File: CompPoly/Multivariate/Eval.lean (hunk 6 above)
Comment (Julek) [reply CompPoly/Multivariate/Eval.lean]: Yeah, this is AI nonsense, nuking it.
